US07019026B1
To a solution of 2-amino-7-aminomethyl-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester (64 mg, 0.22 mmol) in dichloromethane (1 ml) was added 2,4-dimethoxyphenylisocyanate (40 mg, 0.22 mmol). The reaction mixture was stirred at room temperature for 18 hours. The reaction mixture was concentrated in vacuo, diluted with ethyl acetate (30 ml), washed with saturated sodium carbonate (3×25 ml), brine (3×25 ml), dried (MgSO4), filtered and the solvent evaporated in vacuo. The residue was subjected to preparative thin layer chromatography (100% dichloromethane). Rf=0.8 was isolated and the solvent evaporated in vacuo which afforded 55 mg (53%) of 2-amino-7-(3-(2,4-dimethoxy-phenyl)ureidomethyl)-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester as an oil.

reactant | 2-amino-7-aminomethyl-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester | 0.22 mmol, 64 mg | C(C)(C)(C)OC(=O)C1=C(SC=2C(OCCC21)CN)N | C13H20N2O3S
reactant | 2,4-dimethoxyphenylisocyanate | 0.22 mmol, 40 mg | COC1=C(C=CC(=C1)OC)N=C=O | C9H9NO3
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | 2-amino-7-(3-(2,4-dimethoxy-phenyl)ureidomethyl)-4,7-dihydro-5H-thieno[2,3-c]pyran-3-carboxylic acid tert-butyl ester | 55 mg, 53% | C(C)(C)(C)OC(=O)C1=C(SC=2C(OCCC21)CNC(=O)NC2=C(C=C(C=C2)OC)OC)N | C22H29N3O6S
